US07015218B1
(1) Ethyl 5-amino-1-(4-fluorophenyl)-3-methylpyrazole-4-carboxylate
4-Fluorophenylhydrazine (25 g) and ethyl 2-cyano-3-ethoxy-3-methylacrylate (32 g) were stirred in ethanol (130 ml) at a refluxing temperature for 3 h. The solvent was evaporated and diisopropyl ether was added to the residue to allow crystallization. The crystals were recrystallized from a mixed solvent of ethyl acetate-n-hexane to give the title compound (10.7 g), melting point: 129–131° C.

reactant | 4-Fluorophenylhydrazine | 25 g | FC1=CC=C(C=C1)NN | C6H7FN2
reactant | ethyl 2-cyano-3-ethoxy-3-methylacrylate | 32 g | C(#N)C(C(=O)OCC)=C(C)OCC | C9H13NO3
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | Ethyl 5-amino-1-(4-fluorophenyl)-3-methylpyrazole-4-carboxylate | 10.7 g | NC1=C(C(=NN1C1=CC=C(C=C1)F)C)C(=O)OCC | C13H14FN3O2
